US07645789B2
To a stirred solution of 1-(3-acetyl-4-hydroxy-phenyl)-cyclopropanecarboxylic methyl ester (14.6 g, 58.8 mmol) in EtOH (500 mL) were added hydroxylamine hydrochloride (9.00 g, 129 mmol) and sodium acetate (11.6 g, 141 mmol) at room temperature. The resulting mixture was heated at reflux overnight. After removal of EtOH under vacuum, water (200 mL) and EtOAc (200 mL) were added. The organic layer was separated and the aqueous layer was extracted with EtOAc (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give 1-[4-hydroxy-3-(1-hydroxyimino-ethyl)-phenyl]-cyclopropanecarboxylic methyl ester (14.5 g, 98%), which was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 11.09 (s, 1H), 7.39 (d, J=2.0 Hz, 1H), 7.23 (d, J=2.0 Hz, 1H), 7.14 (s, 1H), 6.91 (d, J=8.4 Hz, 1H), 3.63 (s, 3H), 2.36 (s, 3H), 1.62-1.59 (m, 2H), 1.18-1.15 (m, 2H).

reactant | 1-(3-acetyl-4-hydroxy-phenyl)-cyclopropanecarboxylic methyl ester | 58.8 mmol, 14.6 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)C(C)=O | C13H14O4
reactant | hydroxylamine hydrochloride | 129 mmol, 9.00 g | Cl.NO
reactant | sodium acetate | 141 mmol, 11.6 g | C(C)(=O)[O-].[Na+]
solvent | EtOH | 500 mL | CCO | C2H6O
product | 1-[4-hydroxy-3-(1-hydroxyimino-ethyl)-phenyl]-cyclopropanecarboxylic methyl ester | 14.5 g, 98% | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)C(C)=NO | C13H15NO4
